US08455399B2
3-(4-fluorobenzoylamino)-N-[2,6-diethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethylethyl)phenyl]-4-(1,2,4-triazol-1-yl)benzamide (Compound No. D2 of Table D)
To a solution of 3-amino-N-[2,6-diethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)phenyl]-4-(1,2,4-triazol-1-yl)benzamide (75 mg, 0.15 mmol) (Example I4) in dichloromethane (3 ml) was added triethylamine (63 μl, 0.45 mmol) and 4-fluorobenzoyl chloride (21.3 μl, 0.18 mmol). The reaction mixture was heated to reflux for 15 hours. The reaction mixture was cooled to ambient temperature and quenched by addition of saturated aqueous sodium hydrogen carbonate (5 ml). The phases were separated and the aqueous phase was extracted with dichloromethane (2×5 ml). The combined organic phases were dried over sodium sulfate and concentrated. The residue was purification by column chromatography on silica gel (eluent: hexane/ethyl acetate 1:4) to give Compound No. D2 of Table D (76 mg, 82% yield).

reactant | 3-amino-N-[2,6-diethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)phenyl]-4-(1,2,4-triazol-1-yl)benzamide | 0.15 mmol, 75 mg | NC=1C=C(C(=O)NC2=C(C=C(C=C2CC)C(C(F)(F)F)(C(F)(F)F)F)CC)C=CC1N1N=CN=C1 | C22H20F7N5O
reactant | triethylamine | 0.45 mmol, 63 μl | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 0.18 mmol, 21.3 μl | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 3-(4-fluorobenzoylamino)-N-[2,6-diethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethylethyl)phenyl]-4-(1,2,4-triazol-1-yl)benzamide | 82% yield | FC1=CC=C(C(=O)NC=2C=C(C(=O)NC3=C(C=C(C=C3CC)C(C(F)(F)F)(C(F)(F)F)F)CC)C=CC2N2N=CN=C2)C=C1 | C29H23F8N5O2
